US08008298B2
A microwave flask was charged with 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (705 mg, 1.71 mmol, following the general procedures described in these Examples), 1-[3-methoxymethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine (570 mg, 1.71 mmol), and K2CO3 (591 mg, 4.28 mmol). Dioxane (13 ml) and water (3.2 ml) were added, and the solution was vacuum degassed under argon. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(ll) dichloride dichloromethane complex (140 mg, 0.17 mmol) was added, and the reaction mixture was heated (150° C.) in a microwave reactor for 45 minutes. The reaction mixture was filtered through a plug of celite using ethyl acetate. The filtrate was transferred to a reparatory funnel and shaken with water (60 ml). The organic phase was collected and the aqueous phase back extracted with ethyl acetate (2×50 ml). The organic phases were combined, dried (MgSO4), filtered and stripped to provide a viscous semi-solid. This material was purified by preparative TLC, eluting with 24% ethyl acetate in hexanes to afford 492 mg of 1-[2-(3-Methoxymethoxy-5-pyrrolidin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a red-brown viscous oil.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | 1-[3-methoxymethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine | 1.71 mmol, 570 mg | COCOC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)N1CCCC1 | C18H28BNO4
reactant | K2CO3 | 4.28 mmol, 591 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Dioxane | 13 ml | O1CCOCC1 | C4H8O2
solvent | water | 3.2 ml | O | H2O
product | 1-[2-(3-Methoxymethoxy-5-pyrrolidin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 492 mg | COCOC=1C=C(C=C(C1)N1CCCC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C29H42N4O4Si
